US09302989B2
2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine 2.
HCl (1.55 g, 8.03 mmol) was suspended in dimethylformamide (30 ml) and treated with triisopropylethylamine (4.21 ml, 24.08 mmol). After stirring for 20 minutes, the mixture was cooled to −15° C. 2-(4-Isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.028 g, 8.03 mmol) was dissolved in 10 ml tetrahydrofuran and added via syringe over 10 minutes. The mixture was allowed to warm to room temperature, and it was stirred for 3 hours and concentrated under a stream of nitrogen to minimal volume. The residue was diluted with cold water to give a turbid mixture which was filtered with water washes to provide the title compound after drying.

reactant | HCl | 8.03 mmol, 1.55 g | Cl | ClH
reactant | triisopropylethylamine | 24.08 mmol, 4.21 ml | C(C)(C)C(CN)(C(C)C)C(C)C | C11H25N
reactant | 2-(4-Isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 8.03 mmol, 2.028 g | N(=C=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H16BNO3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine | C1NCC=2C=NC=CC21 | C7H8N2
